US09126995B2
0.95 g (5.48 mmol) of 2-methoxy-4-methyl quinoline was dissolved in 10 mL of 1,2-dichloroethane, and then 1.17 g (6.58 mmol) of N-bromosuccinimide and 44 mg (0.27 mmol) of 2,2′-azobisisobutyronitrile were added, and stirred for 2 hours while heated at 90° C. After stirring was completed, the solution was cooled to a normal temperature, and the solvent was removed under reduced pressure to obtain 4-(bromomethyl)-2-methoxyquinoline. The obtained 4-(bromomethyl)-2-methoxyquinoline was used in a next step without any particular isolation and purification.

reactant | 2-methoxy-4-methyl quinoline | 5.48 mmol, 0.95 g | COC1=NC2=CC=CC=C2C(=C1)C | C11H11NO
reactant | N-bromosuccinimide | 6.58 mmol, 1.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.27 mmol, 44 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 4-(bromomethyl)-2-methoxyquinoline | BrCC1=CC(=NC2=CC=CC=C12)OC | C11H10BrNO
